US05308854
Step B: Preparation of 2-methoxy-3-(2-phthalimido-1-(R/S)-hydroxyethyl)-5-ethyl-6-methylpyridine
To a suspension of 2-methoxy-3-(2-amino-1-(R/S)hydroxyethyl)-5-ethyl-6-methylpyridine (345 mg, 1.64 mmol) in ethanol (5 mL) was added N-(carbethoxy)-phthalimide (373 mg, 1.70 mmol). The reaction was stirred for six hours as suspension dissolved. The solvent was evaporated and the viscous residue triturated with ethyl acetate/diethyl ether as product crystallized. By filtration 273 mg (49%) of pure product was collected, m.p. 134°-135° C. These mother liquors were flash chromatographed on silica gel and eluted with 20% ethyl acetate/80% hexane to give an additional 83 mg (15%) of product.

reactant | 2-methoxy-3-(2-amino-1-(R/S)hydroxyethyl)-5-ethyl-6-methylpyridine | 1.64 mmol, 345 mg | COC1=NC(=C(C=C1C(CN)O)CC)C | C11H18N2O2
reactant | N-(carbethoxy)-phthalimide | 1.70 mmol, 373 mg | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-methoxy-3-(2-phthalimido-1-(R/S)-hydroxyethyl)-5-ethyl-6-methylpyridine | 83 mg, 15% | COC1=NC(=C(C=C1C(CN1C(C=2C(C1=O)=CC=CC2)=O)O)CC)C | C19H20N2O4
